US09302999B2
Step A: Preparation of 2-(4-fluorophenyl)-4-methyl-2H-1,2,3-triazole 1-oxide
To a stirred solution of anti-pyruvic aldehyde 1-oxime (3.4 g, 39 mmol) in diethyl ether (75 mL) was added 4-fluorophenylhydrazine hydrochloride (5.85 g, 36 mmol). The reaction mixture was stirred at 23° C. for 16 h, and then concentrated under reduced pressure. The crude residue was dissolved in pyridine (120 mL). A solution of copper(II) sulfate pentahydrate (18 g, 72 mmol) in water (55 mL) was added dropwise over 4 min. The resulting mixture was stirred at reflux for 2 h. The mixture was concentrated under reduced pressure to remove excess pyridine. To the mixture was added 1.0 M aqueous hydrochloric acid. The mixture was extracted with ethyl acetate and the organic layer was separated and washed with 1.0 M aqueous hydrochloric acid until a clear amber organic layer was obtained. The organic layer was dried (MgSO4), filtered, and evaporated under reduced pressure to afford the title compound (6.6 g) as a colorless solid. The title compound was used directly in the next step without further purification.

reactant | anti-pyruvic aldehyde 1-oxime | 39 mmol, 3.4 g | CC(=O)/C=N/O | C3H5NO2
reactant | 4-fluorophenylhydrazine hydrochloride | 36 mmol, 5.85 g | Cl.FC1=CC=C(C=C1)NN
solvent | diethyl ether | 75 mL | C(C)OCC | C4H10O
solvent | water | 55 mL | O | H2O
catalyst | copper(II) sulfate pentahydrate | 72 mmol, 18 g | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | 2-(4-fluorophenyl)-4-methyl-2H-1,2,3-triazole 1-oxide | 6.6 g | FC1=CC=C(C=C1)N1[N+](=CC(=N1)C)[O-] | C9H8FN3O
